US09029409B2
A mixture of 6-chloro-2-methyl-4-styrylpyridazin-3(2H)-one (6 g, 24.32 mmol, Preparation #29), 4% aqueous osmium(VIII) oxide (0.1 mL, 1.216 mmol, Alfa-Aeser), 2,6-dimethylpyridine (5.21 g, 48.6 mmol, Aldrich) and sodium periodate (20.81 g, 97 mmol, Spectrochem) in aqueous dioxane (75%, 80 mL) was stirred at RT for about 3 h. The reaction mixture was diluted with water and the product extracted with EtOAc (5×60 mL). The combined organic layers were dried over sodium sulphate and evaporated under reduced pressure. The residue obtained was purified by silica gel (60-120) column chromatography by eluting with 30-50% EtOAc in hexane to afford 6-chloro-2-methyl-3-oxo-2,3-dihydropyridazine-4-carbaldehyde 2 g (47.7%) as pale yellow solid; 1H NMR (400 MHz, CDCl3) δ 10.359 (s, 1H), 7.658 (s, 1H), 3.846 (s, 3H); MS m/z: 170.9 (M−H)−

reactant | 6-chloro-2-methyl-4-styrylpyridazin-3(2H)-one | 24.32 mmol, 6 g | ClC=1C=C(C(N(N1)C)=O)C=CC1=CC=CC=C1 | C13H11ClN2O
reactant | 2,6-dimethylpyridine | 48.6 mmol, 5.21 g | CC1=NC(=CC=C1)C | C7H9N
reactant | sodium periodate | 97 mmol, 20.81 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | osmium(VIII) oxide | 1.216 mmol, 0.1 mL | [Os](=O)(=O)(=O)=O
product | 6-chloro-2-methyl-3-oxo-2,3-dihydropyridazine-4-carbaldehyde | 2 g, 47.7% | ClC=1C=C(C(N(N1)C)=O)C=O | C6H5ClN2O2
